US20010056109A1
(e) 4-[3-(4-Fluorophenyl)-2,3-dihydro-1H-inden-1-yl]-1H-imidazole
The mixture of the isomers of 4-[3-(4-fluorophenyl)-3H-inden-1-yl]-1H-imidazole was hydrogenated in ethanol using 10% palladium on charcoal as a catalyst. The mixture was filtered through Celite, and the solvent was evaporated. The crude 4-[3-(4-fluorophenyl)-2,3-dihydro-1H-inden-1-yl]-1H-imidazole which was the mixture of the cis and trans diastereomers (the ratio 95.5:4.5) was purified by flash chromatography (elution with a dichloromethane-methanol gradient).

reactant | 4-[3-(4-fluorophenyl)-3H-inden-1-yl]-1H-imidazole | FC1=CC=C(C=C1)C1C=C(C2=CC=CC=C12)C=1N=CNC1 | C18H13FN2
catalyst | ethanol | C(C)O | C2H6O
product | 4-[3-(4-Fluorophenyl)-2,3-dihydro-1H-inden-1-yl]-1H-imidazole | FC1=CC=C(C=C1)C1CC(C2=CC=CC=C12)C=1N=CNC1 | C18H15FN2
